### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2025-11-02

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

**Comment by kbuzzard** [comment]
~~Hmm, there seems to be a mess here. Lots of conflicts, and furthermore the changes in the first file in the github diff `Archive/Imo/Imo1988Q6.lean` for this PR are identical to the changes to that file in the already-merged #102 .~~ (now resolved)

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 1]
```diff
@@ -342,6 +342,13 @@ lemma exists_isFiveWheelLike_succ_of_not_adj_le_two (hW : ∀ ⦃y⦄, y ∈ s 
         notMem_mono inter_subset_left hbs, erase_eq_of_notMem <| notMem_mono inter_subset_right hat,
         card_insert_of_notMem (fun h ↦ G.irrefl (hW h)), hw.card_inter]
 
+#adaptation_note
+/--
+Due to a change in `grind` between `nightly-2025-10-31` and `nightly-2025-11-02`,
+this proof is no longer working. I've temporarily commented it out to get a build of
+`nightly-testing`.
+-/
```
Comment (kbuzzard) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:350]: My understanding was that we now have a working proof again. Do we fix this now or tomorrow?

File: Mathlib/Data/Finset/Image.lean [hunk 2]
```diff
@@ -487,7 +487,13 @@ lemma attach_cons (a : α) (s : Finset α) (ha) :
...
     attach (insert a s) =
       insert (⟨a, mem_insert_self a s⟩ : { x // x ∈ insert a s })
-        ((attach s).image fun x => ⟨x.1, mem_insert_of_mem x.2⟩) := by ext ⟨x, hx⟩; simpa using hx
+        ((attach s).image fun x => ⟨x.1, mem_insert_of_mem x.2⟩) :=
+  ext fun ⟨x, hx⟩ =>
+    ⟨Or.casesOn (mem_insert.1 hx)
+        (fun h : x = a => fun _ => mem_insert.2 <| Or.inl <| Subtype.ext h)
+        fun h : x ∈ s => fun _ =>
+          mem_insert_of_mem <| mem_image.2 <| ⟨⟨x, h⟩, mem_attach _ _, Subtype.ext rfl⟩,
+      fun _ => Finset.mem_attach _ _⟩
```
Comment (kbuzzard) [inline Mathlib/Data/Finset/Image.lean]: This looks to me like it's reverted Yael's golf of this proof.

Comment (kim-em) [reply Mathlib/Data/Finset/Image.lean]: Sadness.

File: Mathlib/Data/String/Basic.lean [hunk 3]
```diff
@@ -122,27 +125,24 @@ instance decidableLE : DecidableLE String := by
...
-theorem toList_inj {s₁ s₂ : String} : s₁.toList = s₂.toList ↔ s₁ = s₂ := by
-  simp [data_inj]
+@[deprecated ofList_nil (since := "2025-10-31")]
+theorem asString_nil : ofList [] = "" :=
+  ofList_nil
 
-theorem asString_nil : [].asString = "" :=
-  rfl
-
-theorem toList_empty : "".toList = [] :=
```
Comment (kbuzzard) [inline Mathlib/Data/String/Basic.lean:131]: Should the deleted theorems `toList_inj` and `toList_empty` be deprecated?

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:350]: I think it's best tomorrow. The working proof wasn't into `nightly-testing` in time for the `nightly-testing-2025-11-02` tag. We could choose to abandon this PR and roll everything into tomorrow, if it's too painful to flip back and forth.

File: lakefile.lean [hunk 4]
```diff
@@ -6,17 +6,17 @@ open Lake DSL
 ## Mathlib dependencies on upstream projects
 -/
 
-require "leanprover-community" / "batteries" @ git "nightly-testing-2025-10-29"
-require "leanprover-community" / "Qq" @ git "master"
-require "leanprover-community" / "aesop" @ git "nightly-testing"
+require "leanprover-community" / "batteries" @ git "nightly-testing"
+require "leanprover-community" / "Qq" @ git "nightly-testing"
+require "leanprover-community" / "aesop" @ git "master"
```
Comment (kbuzzard) [inline lakefile.lean]: This switch Qq master->nightly-testing and aesop nightly-testing->master is I assume intended?

**Review by kbuzzard — COMMENTED** [review]
Right at the bottom of the files diff there's a new file `lean4checker` in the root directoy, and I was not able to leave a github comment on it saying "was this file added intentionally?" for some reason.

File: Mathlib/Data/String/Basic.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Data/String/Basic.lean:131]: These were upstreamed, not deleted. We don't really have good tooling to explain this automatically at present, beyond pasting them back in and seeing `X has already been declared`.

**Comment by kim-em** [comment]
> Right at the bottom of the files diff there's a new file `lean4checker` in the root directoy, and I was not able to leave a github comment on it saying "was this file added intentionally?" for some reason.

fixed, that was my mistake

File: Mathlib/Data/Finset/Image.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Data/Finset/Image.lean]: I've fixed this by replacing the file from `master` and re-fixing deprecations.

**Comment by kbuzzard** [comment]
Modulo the comments this looks ready to merge

File: lakefile.lean (hunk 4 above)
Comment (kim-em) [reply lakefile.lean]: Hmm, neither seem a good idea, and I think they are the result of the merge going badly. :-( I'll revert both, having checked that `Aesop` wants to be on a nightly (the tests were broken and newly fixed), and that `Qq` doesn't need to be on a nightly (because the nightly-testing and master branches are identical today).

File: Mathlib/Algebra/Homology/Embedding/Connect.lean [hunk 5]
```diff
@@ -88,19 +88,15 @@ def d : ∀ (n m : ℤ), X K L n ⟶ X K L m
...
-    · rfl
+lemma shape : (n m : ℤ) → (hnm : n + 1 ≠ m) → h.d n m = 0 := by
+  -- `fun_cases d` does not work here
+  refine d.fun_cases_unfolding (motive := fun n m r => (n + 1 ≠ m) → r = 0)
+    h ?_ ?_ ?_ ?_ ?_
+  · intro n m hnm; exact L.shape _ _ (by simp at hnm ⊢; cutsat)
+  · intro n m hnm; exact K.shape _ _ (by simp at hnm ⊢; cutsat)
+  · intro hnm; simp at hnm
+  · intro n m hnm; rfl
+  · intro n m hnm _; rfl
```
Comment (kim-em) [inline Mathlib/Algebra/Homology/Embedding/Connect.lean]: This looks like a bad merge to me.

**Comment by kim-em** [comment]
bors merge
